US04820866
1,3-bis-(2-nitrophenoxy)-2,2-dimethylpropane
104 g (1 mol) neopentyl glycol, 346.5 g (2.2 mols) 2-nitrochlorobenzene and 140 g powdered sodium hydroxide were reacted following the procedure described in Example 1 in 600 ml DMSO.

reactant | neopentyl glycol | 1 mol, 104 g | OCC(C)(CO)C | C5H12O2
reactant | 2-nitrochlorobenzene | 2.2 mols, 346.5 g | [N+](=O)([O-])C1=C(C=CC=C1)Cl | C6H4ClNO2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | DMSO | 600 ml | CS(=O)C | C2H6OS
product | 1,3-bis-(2-nitrophenoxy)-2,2-dimethylpropane | [N+](=O)([O-])C1=C(OCC(COC2=C(C=CC=C2)[N+](=O)[O-])(C)C)C=CC=C1 | C17H18N2O6
